US04539419
A mixture of 1.2 g of [[8-acetyl-7-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-naphthalenyl]oxy]acetic acid methyl ester and 21 ml of 1N sodium hydroxide in 42 ml of methanol was stirred at reflux for 1 hour. The methanol was removed in vacuo and the aqueous solution was washed with ethyl acetate. The aqueous layer was acidified with 3N hydrochloric acid to pH 3 and the oil was extracted with chloroform. The extract was dried (magnesium sulfate) and concentrated to give an oil which was triturated with ether-cyclohexane and filtered to yield 0.85 g, mp 101°-104° C. (73%) of [[8-acetyl-7-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-naphthalenyl]oxy]acetic acid.

reactant | [[8-acetyl-7-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 1.2 g | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCCOCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)C(C)=O)=O | C32H38O9
reactant | sodium hydroxide | 1N, 21 ml | [OH-].[Na+]
solvent | methanol | 42 ml | CO | CH4O
product | [[8-acetyl-7-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-naphthalenyl]oxy]acetic acid | 0.85 g, 73% | C(C)(=O)C=1C(=CC=C2C=CC(=CC12)OCC(=O)O)OCCCOCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C31H36O9
